US05157041
5 g of 3-(2-naphthyl)-L-alanine and 0.93 g of sodium hydroxide in 12 ml of water were cooled to 0° C. and stirred while a solution of 1.4 g of sodium hydroxide in 9 ml of water and 5 ml of benzyl chloroformate were added simultaneously during 10 minutes. Stirring was continued for 2 hours and the mixture was allowed to come to room temperature. The mixture was diluted with water and then extracted with diethyl ether. The aqueous layer was acidified with 4 ml of concentrated hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extracts were back-washed with water. The combined ethyl acetate extracts were dried over sodium sulphate, filtered, evaporated and triturated with petroleum ether (boiling point 40°-60° C.) to give 7.5 g of N-(benzyloxycarbonyl)-3-(2-naphthyl)-L-alanine of melting point 109°-111° C.

reactant | 3-(2-naphthyl)-L-alanine | 5 g | C1=C(C=CC2=CC=CC=C12)C[C@H](N)C(=O)O | C13H13NO2
reactant | sodium hydroxide | 0.93 g | [OH-].[Na+]
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | benzyl chloroformate | 5 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 12 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | N-(benzyloxycarbonyl)-3-(2-naphthyl)-L-alanine | 7.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)O | C21H19NO4
